US07777038B2
5-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxaldehyde (1.00 g) and 10% palladium carbon (100 mg) were added to a mixed solvent of acetic acid (10 ml) and ethanol (10 ml), followed by catalytic reduction at 50° C. for 1 hour. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to extraction with ethyl acetate, and the extract was washed twice with water, washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from an ethyl acetate-diethyl ether mixed solvent to thereby obtain 826 mg (yield: 89%) of 5-methoxy-8-methyl-3,4-dihydro-1H-quinolin-2-one as a white powder.

reactant | 5-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxaldehyde | 1.00 g | COC1=C2CCC(NC2=C(C=C1)C=O)=O | C11H11NO3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 100 mg | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-methoxy-8-methyl-3,4-dihydro-1H-quinolin-2-one | 826 mg, yield: 89% | COC1=C2CCC(NC2=C(C=C1)C)=O | C11H13NO2
